US06444668B1
6-(3-Chlorophenyl)-4-ethynyl-4-methyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one
Prepared from 1-(4-amino-3′-chloro-biphenyl-3-yl)-ethanone (0.2 g, 0.82 mmol) and ethynylmagnesium bromide followed by treatment with CDI according to procedure C. Off-white solid: mp 185-186° C.; 1H-NMR (CDCl3) δ8.18 (s, 1H, D2O exchangeable), 7.53 (t, 1H, J=1.7 Hz), 7.49 (s, 1H), 7.31-7.48 (m, 4H), 6.92 (d, 1H, J=8.1 Hz), 2.81 (s, 1H), 1.87 (s, 3H); MS (ESI) m/z 304 ([M−H]−, 100%); Anal. Calc. For C17H12CINO2: C, 68.58, H, 4.06, N, 4.70. Found: C, 68.24, H, 3.94, N, 4.65.

reactant | 1-(4-amino-3′-chloro-biphenyl-3-yl)-ethanone | 0.82 mmol, 0.2 g | NC1=C(C=C(C=C1)C1=CC(=CC=C1)Cl)C(C)=O | C14H12ClNO
reactant | ethynylmagnesium bromide | C(#C)[Mg]Br
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
product | 6-(3-Chlorophenyl)-4-ethynyl-4-methyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | ClC=1C=C(C=CC1)C1=CC2=C(NC(OC2(C)C#C)=O)C=C1 | C17H12ClNO2
